** sch_path: /foss/designs/spike_130/tests/cp_net2.sch
**.subckt cp_net2
V4 vdd GND 1.8
V5 vtrh GND 0.6
V6 vref GND 1
V7 vss GND 0
x1 vdd vss spk_x v_x vtrh vref v_rew1 neuron_xin_v1
x2 vdd vss spk_xd v_xd vtrh vref v_rew1 neuron_xin_v1
x3 vdd vss spk_t v_t vtrh vref v_rew1 neuron_xin_v1
x4 vdd vss spk_td v_td vtrh vref v_rew1 neuron_xin_v1
x5 vdd vss vo_1 vin_1 vtrh vref v_rew2 neuron_xin_v1
x6 vdd vss vo_2 vin_2 vtrh vref v_rew2 neuron_xin_v1
X7 vin_1 spk_x rram_cell gap_i=0.5
X8 vin_2 spk_x rram_cell gap_i=0.5
x15 vdd x1.phi_fire x5.phi_fire spk_x vin_1 synpCntrl
x16 vdd x1.phi_fire x6.phi_fire spk_x vin_2 synpCntrl
X9 vin_1 spk_xd rram_cell gap_i=0.5
X10 vin_2 spk_xd rram_cell gap_i=0.5
x11 vdd x2.phi_fire x5.phi_fire spk_xd vin_1 synpCntrl
x12 vdd x2.phi_fire x6.phi_fire spk_xd vin_2 synpCntrl
X13 vin_1 spk_t rram_cell gap_i=0.5
X14 vin_2 spk_t rram_cell gap_i=0.5
x17 vdd x3.phi_fire x5.phi_fire spk_t vin_1 synpCntrl
x18 vdd x3.phi_fire x6.phi_fire spk_t vin_2 synpCntrl
X19 vin_1 spk_td rram_cell gap_i=0.5
X20 vin_2 spk_td rram_cell gap_i=0.5
x21 vdd x4.phi_fire x5.phi_fire spk_td vin_1 synpCntrl
x22 vdd x4.phi_fire x6.phi_fire spk_td vin_2 synpCntrl
**** begin user architecture code


Ix 0 v_x 0.25u
Ixd 0 v_xd 0.4u
It 0 v_t 0.8u
Itd 0 v_td 1u
Vr1 v_rew1 0 1.8
Vr2 v_rew2 0 1.8
.control
 set num_threads=16
 tran 10n 100u uic
 write cp_net2.raw
.endc
.save all


.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt

.subckt rram_cell BE TE gap_i=0.1
N1 BE TE rram_model
.model rram_model rram gap_initial={gap_i}
.ends rram_cell

.control
pre_osdi /foss/designs/spike_130/designs/prubs/rram.osdi
.endc

**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/spike_130/designs/core_xin_neuron_v1/neuron_xin_v1.sym # of pins=7
** sym_path: /foss/designs/spike_130/designs/core_xin_neuron_v1/neuron_xin_v1.sym
** sch_path: /foss/designs/spike_130/designs/core_xin_neuron_v1/neuron_xin_v1.sch
.subckt neuron_xin_v1 vdd vss vout vin vtrh vref reward
*.iopin vdd
*.ipin vin
*.opin vout
*.iopin vss
*.ipin vtrh
*.ipin vref
*.ipin reward
x11 vref vdd phi_fire net1 vmem conmutator
x12 vmem vdd phi_fire vout vref conmutator
x13 GND net4 phi_fire vicom_p vmem conmutator
x14 phi_fire vin vmem vdd switch
x15 vdd vtrh vo_com vicom_p GND ota_1_stage
XC4 vin net1 sky130_fd_pr__cap_mim_m3_2 W=1 L=1 MF=200 m=200
XM3 vmem vdd net3 GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x1 reward vss vdd vref vo_com vspike phi_fire pulseReward
x3 vdd vin vmem vspike GND ota_2_stage
XM1 net3 vdd net2 GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net2 vdd vin GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_synpCntrl/synpCntrl.sym # of pins=5
** sym_path: /foss/designs/spike_130/designs/subcells/core_synpCntrl/synpCntrl.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_synpCntrl/synpCntrl.sch
.subckt synpCntrl vdd pre pos a b
*.opin pre
*.opin pos
*.iopin a
*.iopin b
*.iopin vdd
x15 net1 b a vdd switch
x16 net2 b a vdd switch
x6 vdd pre net1 not
x8 vdd pos net2 not
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_conmutator/conmutator.sym # of pins=5
** sym_path: /foss/designs/spike_130/designs/subcells/core_conmutator/conmutator.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_conmutator/conmutator.sch
.subckt conmutator in2 vdd cntrl out in1
*.ipin cntrl
*.ipin in2
*.ipin in1
*.iopin vdd
*.opin out
XM2 out cntrl in2 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 out net1 in2 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 out net1 in1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 out cntrl in1 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x1 vdd cntrl net1 not
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_switch/switch.sym # of pins=4
** sym_path: /foss/designs/spike_130/designs/subcells/core_switch/switch.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_switch/switch.sch
.subckt switch cntrl in out vdd
*.ipin cntrl
*.ipin in
*.iopin vdd
*.opin out
XM3 out cntrl in GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 out net1 in vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x1 vdd cntrl net1 not
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_ota_1stage/ota_1_stage.sym # of pins=5
** sym_path: /foss/designs/spike_130/designs/subcells/core_ota_1stage/ota_1_stage.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_ota_1stage/ota_1_stage.sch
.subckt ota_1_stage vdd vn vout vp vss
*.iopin vdd
*.ipin vp
*.opin vout
*.ipin vn
*.iopin vss
XM1 net1 vp net3 GND sky130_fd_pr__nfet_01v8 L=0.15 W=4.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 vout net1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 vout vn net3 GND sky130_fd_pr__nfet_01v8 L=0.15 W=4.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net3 net2 vss GND sky130_fd_pr__nfet_01v8 L=0.45 W=5.4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net2 net2 vss GND sky130_fd_pr__nfet_01v8 L=0.45 W=5.4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
I4 vdd net2 11u
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_pulseReward/pulseReward.sym # of pins=7
** sym_path: /foss/designs/spike_130/designs/subcells/core_pulseReward/pulseReward.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_pulseReward/pulseReward.sch
.subckt pulseReward reward vss vdd vref vin vspike phi_fire
*.opin vspike
*.iopin vdd
*.opin phi_fire
*.ipin vin
*.ipin vref
*.iopin vss
*.ipin reward
x19 vdd phi1 vin net2 net1 monostable
x21 vdd phi1 phi2 phi_int nor
x22 vdd phi_int phi_fire not
V6 vspike_down GND 0.5
V7 vspike_up GND 1.5
XC2 net1 net2 sky130_fd_pr__cap_mim_m3_2 W=1 L=1 MF=100 m=100
XC4 GND vrefrac sky130_fd_pr__cap_mim_m3_2 W=1 L=1 MF=10 m=10
XM7 vrefrac vdd net5 GND sky130_fd_pr__nfet_01v8 L=10 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net6 vdd GND GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x1 vspike_up_plus vdd reward net4 vspike_up conmutator
V8 vspike_up_plus GND 1.8
x2 phi1 vspike net4 vdd switch
x3 vdd vref phi2b vrefrac GND ota_1_stage
XC1 vspike GND sky130_fd_pr__cap_mim_m3_2 W=1 L=1 MF=5 m=5
x4 phi2 vspike vrefrac vdd switch
x5 phi_int vspike vref vdd switch
x6 phi1 vrefrac vspike_down vdd switch
x7 phi2 net3 vref vdd switch
x9 vdd phi1 phi2b phi2 xnor
XM1 net5 vdd net3 GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net8 vdd net6 GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net7 vdd net8 GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net2 vdd net7 GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_ota_2stage/ota_2_stage.sym # of pins=5
** sym_path: /foss/designs/spike_130/designs/subcells/core_ota_2stage/ota_2_stage.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_ota_2stage/ota_2_stage.sch
.subckt ota_2_stage vdd vn vout vp vss
*.iopin vdd
*.ipin vp
*.opin vout
*.ipin vn
*.iopin vss
XM1 net1 vn net4 GND sky130_fd_pr__nfet_01v8 L=0.15 W=3.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=.3 W=1.8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=6 m=6
XM4 net2 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=.3 W=1.8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=6 m=6
XM2 net2 vp net4 GND sky130_fd_pr__nfet_01v8 L=0.15 W=3.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net4 net3 vss GND sky130_fd_pr__nfet_01v8 L=1.5 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 net3 net3 vss GND sky130_fd_pr__nfet_01v8 L=0.15 W=2.7 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
R1 vdd net3 1k m=1
XM6 vout net2 vdd vdd sky130_fd_pr__pfet_01v8 L=.15 W=23.25 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=6 m=6
C1 net2 vout .3p m=1
XM7 vout net3 vss GND sky130_fd_pr__nfet_01v8 L=0.15 W=6.9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_not/not.sym # of pins=3
** sym_path: /foss/designs/spike_130/designs/subcells/core_not/not.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_not/not.sch
.subckt not vdd in out
*.ipin in
*.opin out
*.iopin vdd
XM10 out in vdd vdd sky130_fd_pr__pfet_01v8_lvt L=0.35 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 out in GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_monostable/monostable.sym # of pins=5
** sym_path: /foss/designs/spike_130/designs/subcells/core_monostable/monostable.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_monostable/monostable.sch
.subckt monostable vdd out trigger in2 in1
*.iopin vdd
*.ipin trigger
*.ipin in1
*.ipin in2
*.opin out
x1 vdd in2 net1 not
x2 vdd net1 out not
x3 vdd in1 net1 trigger nand
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_nor/nor.sym # of pins=4
** sym_path: /foss/designs/spike_130/designs/subcells/core_nor/nor.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_nor/nor.sch
.subckt nor vdd A B out
*.ipin A
*.ipin B
*.iopin vdd
*.opin out
XM3 out A GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 out B GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM11 net1 A vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 out B net1 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_xnor/xnor.sym # of pins=4
** sym_path: /foss/designs/spike_130/designs/subcells/core_xnor/xnor.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_xnor/xnor.sch
.subckt xnor vdd A B vout
*.ipin A
*.ipin B
*.iopin vdd
*.opin vout
XM5 net1 A vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 vout B net1 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 vout B A GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 vout A B GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_nand/nand.sym # of pins=4
** sym_path: /foss/designs/spike_130/designs/subcells/core_nand/nand.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_nand/nand.sch
.subckt nand vdd out A B
*.iopin vdd
*.opin out
*.ipin A
*.ipin B
XM11 out A vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 out B vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 out A net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 B GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
